US09255100B2
6-bromo-3-iodo-8-(methylsulfanyl)imidazo[1,2-b]pyridazine
To a stirred solution of 51.2 g (146.8 mmol) 6,8-dibromo-3-iodoimidazo[1,2-b]pyridazine which was prepared according to intermediate example 96c in NMP (450 mL) are added 12.35 g (176.2 mmol) sodium methanethiolate in one portion at 0° C. After reaction for 15 min, 700 mL water are added and the precipitate is filtered off and dried. Trituration with ether, filtration and drying in vaccuo. yields 44.3 g (65%) of the title compound

reactant | 6,8-dibromo-3-iodoimidazo[1,2-b]pyridazine | 146.8 mmol, 51.2 g | BrC=1C=C(C=2N(N1)C(=CN2)I)Br | C6H2Br2IN3
reactant | sodium methanethiolate | 176.2 mmol, 12.35 g | C[S-].[Na+]
reactant | water | 700 mL | O | H2O
solvent | NMP | 450 mL | CN1CCCC1=O | C5H9NO
product | 6-bromo-3-iodo-8-(methylsulfanyl)imidazo[1,2-b]pyridazine | 44.3 g, 65% | BrC=1C=C(C=2N(N1)C(=CN2)I)SC | C7H5BrIN3S
